US05616610
d) (R)-3-(N-Cyclohexyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N-Cyclohexyl-N-n-propylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran was dissolved in diethyl ether (30 mL) and triethylamine (0.8 g, 8 mmol) was added and the mixture was cooled to -20 ° C. Trifluoromethanesulfonic anhydride (0.8 g, 2.8 mmol), dissolved in diethyl ether (10 mL), was added dropwise (5 min). After stirring for 30 min, the dark-brownish mixture was poured into water. The organic layer was separated. Flash chromatography (EtOAc/hexane 1+1 as the eluent) gave 0.8 g of the title compound as a yellow oil. GC/MS (70 eV) M=439 (20%).

reactant | (R)-3-(N-Cyclohexyl-N-n-propylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran | C1(CCCCC1)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)O | C18H26FNO2
reactant | triethylamine | 8 mmol, 0.8 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 2.8 mmol, 0.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (R)-3-(N-Cyclohexyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 0.8 g | C1(CCCCC1)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C19H25F4NO4S
